US07691882B2
2-(4-Bromo-benzyloxy)-4-methyl-pyridine
To a mixture of 4-bromobenzyl alcohol (4.54 g, 24.3 mmol) and N,N-dimethylformamide (50.0 mL) were added sodium hydride (1.00 g, 25.0 mmol, 60% in oil) was added at 0° C. under nitrogen atmosphere, which was stirred for 50 minutes at room temperature. 2-Fluoro-4-methylpyridine (1.80 g, 16.2 mmol) was then added thereto at 0° C., and stirred for 2 hours and 30 minutes at room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, and filtered. The filtrate was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:15) to obtain the title compound (2.65 g, 58.8%).

reactant | 4-bromobenzyl alcohol | 24.3 mmol, 4.54 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | N,N-dimethylformamide | 50.0 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 25.0 mmol, 1.00 g | [H-].[Na+]
reactant | 2-Fluoro-4-methylpyridine | 16.2 mmol, 1.80 g | FC1=NC=CC(=C1)C | C6H6FN
solvent | Water | O | H2O
product | 2-(4-Bromo-benzyloxy)-4-methyl-pyridine | 2.65 g, 58.8% | BrC1=CC=C(COC2=NC=CC(=C2)C)C=C1 | C13H12BrNO
